US05286822
Tetrafluoroethylene/Perfluoropropylvinyl Ether Copolymer
A 400-mL pressure vessel was loaded with 100 mL of bis(perfluoro-n-butyl) sulfide. The pressure vessel was then chilled and maintained around -20° C. while further loading with 20 mL of 0.05M HFPO dimer peroxide in bis(perfluoro-n-butyl) sulfide, pulling the air off with a vacuum pump, adding 5 g of perfluoropropylvinyl ether, and finally adding 50 g of tetrafluoroethylene. Polymerization set in during warm up, pressure dropping from 96 psi at 4.4° C. to 86 psi at 85° C. over a 14 minute period. The pressure continued to drop, falling to 3 psi four to five hours later at 35° C. The product was washed three times with 200 mL of 1:1 methanol:water, filtered, and dried under vacuum, giving 58 g of white powder (~100% conversion). Infrared analysis found 3.7 wt % perfluoropropylvinyl ether in the copolymer with tetrafluoroethylene. The polymer extruded through a melt indexer at 0.4 g/min at 372° C. with a 15-kg weight.

reactant | perfluoropropylvinyl ether | FC(=C(C(C(C(F)(F)F)(F)F)(F)F)F)OC(=C(F)C(C(C(F)(F)F)(F)F)(F)F)F | C10F18O
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
product | Tetrafluoroethylene Perfluoropropylvinyl Ether | FC(=C(F)F)F.FC(=C(C(C(C(F)(F)F)(F)F)(F)F)F)OC(=C(F)C(C(C(F)(F)F)(F)F)(F)F)F | InChI=1S/C10F18O.C2F4/c11-1(5(15,16)7(19,20)9(23,24)25)3(13)29-4(14)2(12)6(17,18)8(21,22)10(26,27)28;3-1(4)2(5)6
